US04144248
FAMSO (2.572 g), 3 ml of a 40% methanol solution of trimethylbenzylammonium hydroxide, and 3 ml of benzaldehyde were added to 5 ml of tetrahydrofuran, and the mixture was refluxed for 4 hours. After adding 100 ml of methylene chloride, the reaction mixture was washed with dilute sulfuric acid. The product was dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The residue was chromatographed on a silica gel using methylene chloride as an eluant to afford 3.994 g of 1-methylsulfinyl-1-methylthio-2-phenylethylene as a colorless liquid having a boiling point of 149° to 150° C./0.08 mmHg in a yield of 91.0%.

reactant | FAMSO | 2.572 g | CSCS(=O)C | C3H8OS2
reactant | methanol | CO | CH4O
reactant | trimethylbenzylammonium hydroxide | [OH-].C[N+](CC1=CC=CC=C1)(C)C
reactant | benzaldehyde | 3 ml | C(C1=CC=CC=C1)=O | C7H6O
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | 1-methylsulfinyl-1-methylthio-2-phenylethylene | 3.994 g, yield of 91.0% | CS(=O)C(=CC1=CC=CC=C1)SC | C10H12OS2
